US05726203
Preparation of Dihydroqinghaosu-M-Nitrobenzenecarbamate
The title compound was similarly prepared from dihydroqinghaosu and m-nitrophenyl isocyanate as Example 3.

reactant | dihydroqinghaosu | C[C@@H]1CC[C@H]2[C@H]([C@H](O[C@H]3[C@@]24[C@H]1CCC(O3)(OO4)C)O)C | C15H24O5
reactant | m-nitrophenyl isocyanate | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
product | Dihydroqinghaosu M-Nitrobenzenecarbamate | C[C@@H]1CC[C@H]2[C@H]([C@H](O[C@H]3[C@@]24[C@H]1CCC(O3)(OO4)C)O)C.[N+](=O)([O-])C=1C=C(C=CC1)NC(=O)[O-] | InChI=1S/C15H24O5.C7H6N2O4/c1-8-4-5-11-9(2)12(16)17-13-15(11)10(8)6-7-14(3,18-13)19-20-15;10-7(11)8-5-2-1-3-6(4-5)9(12)13/h8-13,16H,4-7H2,1-3H3;1-4,8H,(H,10,11)/p-1/t8-,9-,10+,11+,12+,13-,14?,15-;/m1./s1
